US06531476B1
1.48 g (3.7 mmol) of 1,4-dibenzyl-2-(1′-pyrrolidinocarbonyloxymethyl)piperazine are dissolved in 40 ml of absolute ethanol and 1 ml of 12N HCl in a 100 ml ground-necked round-bottomed flask. About 100 mg of palladium (10%) on charcoal are added thereto. The mixture is then placed under a hydrogen atmosphere, vigorously stirred and gentle heating is applied (40° C.). When the initial product has disappeared (the reaction program is monitored by thin-layer chromatography eluted with an MeOH/CH2Cl2 mixture (5/95 v/v), after neutralization of an aliquot with a few grains of NaHCO3), the solution is filtered on paper and the catalyst is rinsed several times with ethanol and water. The solvents are then evaporated off under vacuum. 1.04 g of 2-(1′-pyrrolidinocarbonyloxymethyl)piperazine hydrochloride are thus obtained and used in the following step without further purification. Yield: 98.3%. Rf=0.4 (80/20/2 v/v/v CHCl3/MeOH/NH4OH).

reactant | 1,4-dibenzyl-2-(1′-pyrrolidinocarbonyloxymethyl)piperazine | 3.7 mmol, 1.48 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)COC(=O)N1CCCC1 | C24H31N3O2
reactant | HCl | 12N, 1 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium | 100 mg | [Pd] | Pd
product | 2-(1′-pyrrolidinocarbonyloxymethyl)piperazine hydrochloride | 1.04 g, Yield: 98.3% | Cl.N1(CCCC1)C(=O)OCC1NCCNC1 | InChI=1S/C10H19N3O2.ClH/c14-10(13-5-1-2-6-13)15-8-9-7-11-3-4-12-9;/h9,11-12H,1-8H2;1H
